US05594023
A) Benzyl 6-(tert-butoxycarbonylamino)hexanoate
1.94 ml of DBU and then 1.54 ml of benzyl bromide are added at RT to a solution of 3 g of 6-(tert-butoxycarbonylamino)hexanoic acid in 60 ml of DCM and the mixture is stirred for 24 hours at RT. It is concentrated under vacuum, the residue is taken up with 100 ml of water and extracted with AcOEt, the organic phase is washed with a 5% solution of potassium carbonate, with a saturated solution of NaCl and with water and dried over sodium sulfate and the solvent is evaporated off under vacuum to give 2.8 g of the expected product, which is used as such.

reactant | DBU | 1.94 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | benzyl bromide | 1.54 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 6-(tert-butoxycarbonylamino)hexanoic acid | 3 g | C(C)(C)(C)OC(=O)NCCCCCC(=O)O | C11H21NO4
solvent | DCM | 60 ml | C(Cl)Cl | CH2Cl2
product | Benzyl 6-(tert-butoxycarbonylamino)hexanoate | 2.8 g | C(C)(C)(C)OC(=O)NCCCCCC(=O)OCC1=CC=CC=C1 | C18H27NO4
